US06903085B1
Step iii: 3-[3-(4-Bromo-1-methyl-1H-pyrazol-3-yl)-1,2,4-oxadiazol-5-yl]-N-[1-(3,4-dichlorobenzyl)-4-piperidinyl]propanamide
To lithium 4-{[1-(3,4-dichlorobenzyl)-4-piperidinyl]amino}-4-oxobutanoate (0.292 g) in dichloromethane (6 ml) was added dimethylformamide (1.5 ml), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (0.183 g), 1-hydroxybenzotriazole hydrate (0.130 g), 4-bromo-N′-hydroxy-1methyl-1H-pyrazole-3-carboximidamide (0.175 g) and triethylamine (0.161 g). Reaction was left to stir for 24 hours before removal of dichloromethane under reduced pressure. Pyridine (5 ml) was added and heated at reflux for 5 hours. Pyridine was removed under reduced pressure, followed by the addition of water. The solution was extracted three times with dichloromethane. The pooled organic phase was washed once with water, once with saturated brine and dried over magnesium sulfate. After filtration the product was azeotroped twice with toluene and was purified by reverse phase hplc (RPHPLC; 75%-5% 0.1% ammonium acetate/acetonitrile). Solvent was removed under reduced pressure to give the title compound (0.164 g).

reactant | lithium 4-{[1-(3,4-dichlorobenzyl)-4-piperidinyl]amino}-4-oxobutanoate | 0.292 g | ClC=1C=C(CN2CCC(CC2)NC(CCC(=O)[O-])=O)C=CC1Cl.[Li+]
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.183 g | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole hydrate | 0.130 g | O.ON1N=NC2=C1C=CC=C2
reactant | 4-bromo-N′-hydroxy-1methyl-1H-pyrazole-3-carboximidamide | 0.175 g | BrC=1C(=NN(C1)C)C(N)=NO | C5H7BrN4O
solvent | dichloromethane | 6 ml | ClCCl | CH2Cl2
solvent | Pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
solvent | triethylamine | 0.161 g | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 1.5 ml | CN(C=O)C | C3H7NO
product | 3-[3-(4-Bromo-1-methyl-1H-pyrazol-3-yl)-1,2,4-oxadiazol-5-yl]-N-[1-(3,4-dichlorobenzyl)-4-piperidinyl]propanamide | 0.164 g | BrC=1C(=NN(C1)C)C1=NOC(=N1)CCC(=O)NC1CCN(CC1)CC1=CC(=C(C=C1)Cl)Cl | C21H23BrCl2N6O2
